US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[(isopropylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
A solution of tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (216 mg, 0.61 mmol) and 2,6-lutidine (180 μl, 1.50 mmol) in DCM (3 ml) was treated with isopropanesulphonylchloride (100 μl, 0.90 mmol) and stirred at room temperature for 18 hours. Reaction was complete but it was left for 12 days before purification commenced. The reaction mixture was diluted with DCM and washed with 1M HCl (2×20 ml), sat. NaHCO3 solution and brine. The organic extract was dried over anhydrous MgSO4, filtered and the solvent removed under reduced pressure. The residue was purified on a silica column eluting with a solvent gradient of pentane:EtOAc (90:10) gradually changing to (50:50) to afford the title compound as a colourless oil (157 mg, 56%).

reactant | tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.61 mmol, 216 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | 2,6-lutidine | 1.50 mmol, 180 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | isopropanesulphonylchloride | 0.90 mmol, 100 μl | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(isopropylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | 157 mg, 56% | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNS(=O)(=O)C(C)C | C22H39N3O5S
